US05863944
A 50% (by weight) solution of potassium carbonate (11.2 mL, 16.8 mmol, 1.02 eq), 8-aminocaprylic acid (9.5 g, 59.7 mmol, 1.00 eq), 5-fluoroisatoic anhydride (10.82 g, 59.7 mmol, 1.00 eq), dioxane (40 mL), and water (5 mL) were added to a 100 mL round bottom flask equipped with a magnetic stir bar and a condenser. The red cloudy mixture was heated to 90° C. for 2 hours (at which time the reaction was determined, by HPLC, to have finished). The deep purple solution was cooled to 25° C. and acidified to pH=4.0 with 3% (by vol.) aqueous hydrochloric acid. The dark precipitate which formed was isolated by filtration. The solid was recrystallized from 50 mL of 65% ethanol-water, recovered by filtration, and dried over 6 hours in a 50° C. vacuum oven. The N-(2-amino-5-fluorobenzoyl) -8-aminocaprylic acid was isolated as a light yellow solid (11.86 g, 67%), mp=108°-109° C.

reactant | potassium carbonate | 16.8 mmol, 11.2 mL, 1.02 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 8-aminocaprylic acid | 59.7 mmol, 9.5 g, 1.00 eq | NCCCCCCCC(=O)O | C8H17NO2
reactant | 5-fluoroisatoic anhydride | 59.7 mmol, 10.82 g, 1.00 eq | FC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4FNO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | N-(2-amino-5-fluorobenzoyl) -8-aminocaprylic acid | NC1=C(C(=O)NCCCCCCCC(=O)O)C=C(C=C1)F | C15H21FN2O3
